US06355636B1
To 40 g of 6-fluoro-pyridin-3-ylamine and 20 mL of t-butanol was added 200 g of warm di-t-butyl dicarbonate. After stirring for 4 hours at 40° C., the reaction was diluted with hexanes and chilled at −15° C. for 18 hours. The crystals was filtered, washed with hexanes, and dried in vacuo to give 72 g (96%) of (6-fluoro-pyridin-3-yl)-carbamic acid, tert-butyl ester: melting point=112-113° C.; mass spectrum (m/e): M+H 213.1.

reactant | 6-fluoro-pyridin-3-ylamine | 40 g | FC1=CC=C(C=N1)N | C5H5FN2
reactant | di-t-butyl dicarbonate | 200 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butanol | 20 mL | C(C)(C)(C)O | C4H10O
product | (6-fluoro-pyridin-3-yl)-carbamic acid, tert-butyl ester | 72 g, 96% | FC1=CC=C(C=N1)NC(OC(C)(C)C)=O | C10H13FN2O2
